US07943609B2
tert-Butyl (2S)-2-[(3-aminoquinolin-4-yl)amino]propylcarbamate (4.60 g, 14.55 mmol) was dissolved in 150 mL of anhydrous 1,2-dichloroethane and the solution was stirred under N2. Ethyl 2-chloroethanimidoate hydrochloride (3.45 g, 21.8 mmol) was added and the reaction was heated to 60° C. for 24 hours. The reaction mixture was cooled and washed with saturated sodium bicarbonate solution (2×100 mL) followed by brine. The organic layer was dried over Na2SO4, filtered, and concentrated to give an orange solid. Chromatography (SiO2, 60-80% EtOAc/hexanes) gave tert-butyl (2S)-2-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate (2.54 g) as a tan solid.

reactant | tert-Butyl (2S)-2-[(3-aminoquinolin-4-yl)amino]propylcarbamate | 14.55 mmol, 4.60 g | NC=1C=NC2=CC=CC=C2C1N[C@H](CNC(OC(C)(C)C)=O)C | C17H24N4O2
reactant | Ethyl 2-chloroethanimidoate hydrochloride | 21.8 mmol, 3.45 g | Cl.ClCC(OCC)=N
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
product | tert-butyl (2S)-2-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate | 2.54 g | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)[C@H](CNC(OC(C)(C)C)=O)C | C19H23ClN4O2
